US07432260B2
[4-(2-Methoxy-ethoxy)-3-nitro-phenyl]-[4-(4-methyl-2-methylamino-thiazol-5-yl)-pyrimidin-2-yl]-amine [77].
By alkylation of [4-(2-aminomethyl-4-methyl-thiazol-5-yl)-pyrimidin-2-yl]-(4-fluoro-3-nitrophenyl)-amine with 2-methoxy-ethanol. Yellow solid. Anal. RP-HPLC: tR=12.8 min (10-70% MeCN, purity>90%). 1H-NMR (DMSO-D6) δ: 2.41 (s, 3H, CH3), 2.86 (d, 3H, J=4.5 Hz, CH3), 3.24 (s, 3H, CH3), 3.66 (m, 2H, CH2), 4.23 (m, 2H, CH2), 6.93 (d, 1H, J=6.0 Hz, pyrimidinyl-H), 7.32 (d, 1H, J=5.0 Hz, Ph-H), 7.79 (m, 1H, Ph-H), 8.08 (d, 1H, J=5.0 Hz, Ph-H), 8.35 (d, 1H, J=5.0 Hz, pyrimidinyl-H), 8.54 (m, 1H, NH), 9.68 (s, 1H, NH). MS (ESI+) m/z 417.08 [M+H]+ (C18H20N6O4S requires 416.46).

reactant | [4-(2-aminomethyl-4-methyl-thiazol-5-yl)-pyrimidin-2-yl]-(4-fluoro-3-nitrophenyl)-amine | NCC=1SC(=C(N1)C)C1=NC(=NC=C1)NC1=CC(=C(C=C1)F)[N+](=O)[O-] | C15H13FN6O2S
reactant | 2-methoxy-ethanol | COCCO | C3H8O2
reactant | MeCN | CC#N | C2H3N
product | [4-(2-Methoxy-ethoxy)-3-nitro-phenyl]-[4-(4-methyl-2-methylamino-thiazol-5-yl)-pyrimidin-2-yl]-amine | COCCOC1=C(C=C(C=C1)NC1=NC=CC(=N1)C1=C(N=C(S1)NC)C)[N+](=O)[O-] | C18H20N6O4S
